2159-11-21 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hyperglycemia and Acute Mental Status.
   24 Hour Events:
   Attempted LP
   Head CT
   hydralazine and Metoprolol for HTN
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-11-20**] 04:41 PM
   Acyclovir - [**2159-11-20**] 07:50 PM
   Ampicillin - [**2159-11-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2159-11-20**] 03:12 PM
   Lorazepam (Ativan) - [**2159-11-20**] 10:30 PM
   Hydralazine - [**2159-11-20**] 10:40 PM
   Metoprolol - [**2159-11-21**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   42 year old lady with a history of ESRD on HD from Type 1 DM presented
   to the ED with hyperglycemia in the 500s and confusion since earlier
   that morning.  The patient was found to have a K in the 7-8 range,
   peaked T waves and a RLL consolidation on CXR.
   The patient's sister reports that the patient was experiencing lethargy
   and weakness with worsening severe headaches and photophobia in the
   past few days, on a background of [**12-29**] months of headache.  Per her
   nephrologist, the patient learned 2 nights prior that she is
   temporarily de-listed for transplant.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-11-21**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 67 (64 - 91) bpm
   BP: 159/66(90) {146/60(81) - 226/90(122)} mmHg
   RR: 13 (13 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,447 mL
                                                                    176 mL
   PO:
             TF:
   IVF:
                                                                    447 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                     70 mL
                                                                     45 mL
   Urine:
                                                                     70 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,377 mL
                                                                    131 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   Physical Examination
   GEN: NAD.
   NECK: Swollen
   CV: RRR
   PULM: CTAB
   ABD: Non-distended
   EXTR: no edema, normal pulses, charcot joint on R
   NEURO/MENTAL STATUS: Alert and oriented x3 after significant thinking
   delay and with mild prompts. Redirectable.
   Labs / Radiology
   259 K/uL
   10.8 g/dL
   128 mg/dL
   10.1 mg/dL
   26 mEq/L
   4.2 mEq/L
   68 mg/dL
   93 mEq/L
   133 mEq/L
   31.8 %
   11.3 K/uL
        [image002.jpg]
                            [**2159-11-20**]  01:30 PM
                            [**2159-11-20**]  09:44 PM
                            [**2159-11-21**]  04:00 AM
   WBC
   6.3
   11.6
   11.3
   Hct
   35.0
   32.3
   31.8
   Plt
   235
   267
   259
   Cr
   9.0
   9.5
   10.1
   Glucose
   556
   154
   128
   Other labs: PT / PTT / INR:12.0/26.2/1.0, ALT / AST:[**10-13**], Alk Phos / T
   Bili:70/0.2, Differential-Neuts:84.2 %, Lymph:11.4 %, Mono:1.9 %,
   Eos:2.1 %, Lactic Acid:3.1 mmol/L, Albumin:3.4 g/dL, LDH:201 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.6 mg/dL, PO4:3.5 mg/dL  BNP: [**Numeric Identifier 9496**]*
   Imaging:
   [**2159-11-20**] Head CT:
   No acute hemorrhage, no acute intracranial process.
   NOTE ADDED IN ATTENDING REVIEW: The extensive atherosclerotic
   calcification involving the distal vertebral and cavernous and
   supraclinoid internal carotid arteries is quite unusual in a patient of
   this age and gender, and should be correlated with clinical
   information.
   .
   CXR
 FINDINGS: Upright portable chest radiograph is obtained.
   Cardiomegaly is noted with pulmonary vascular congestion. No large
   effusions or pneumothorax is seen. Mediastinal silhouette appears
   grossly unremarkable. Osseous structures are intact. No free air below
   the right hemidiaphragm is seen.
   IMPRESSION: Findings compatible with fluid overload.
   Microbiology: All NTD
   Assessment and Plan
   A 42 year old lady with ESRD from Type 1 diabetes presents with
   confusion/altered mental status with a recent headache and worsening
   lethargy in the setting of hyperglycemia.  She is responsive to
   sedative medications.
   1. Altered Mental Status: The patient's altered mental status may be
   due to infectious (meningitis/PNA), hyperglycemia/hypertensive
   derrangements, possible ingestion in the light of the recent de-listing
   news, psychiatric reaction to finding out de-listing news, or a
   reaction to prescribed meds such as reglan.  All tox screens are
   negative this far and the patient is not showing objective signs of
   infection (no fever or white count).  She has received haldol and
   ativan for agitation thus far.  LP was unsuccessful yesterday.  Urine
   Tox, Serum Tox were negative. Patient
s mental status today is A&O x3.
   - LP today; request IR to attempt please
   - Blood Cx, Urine Cx, Urine Legionella antigen, sputum Cx need to be
   followed up
   - Vanc/CTX/Amp/Acyclovir for meningitis
   - Ativan/haldol PRN
   - Restraints PRN
   2. Hyperglycemia: The patient is having hyperglycemia with alterations
   in mental status but no evidence of ketones.  Her anion gap is
   difficult to interpret given her underlying renal disease.
   - Continue sliding scale
   - No IVF given renal disease
   3. Hypertension: The patient is hypertensive to the 200s, with baseline
   150s.  We were previously unable to administer her home meds because of
   altered mental status.
   - Restart home antihypertensives (valsartan)
   - HD today
   4. ESRD: The patient was admitted to for dialysis given hyperkalemia. K
   has now normalized.
   - Nephrocaps, hold Renagel (Phos 2.7)
   - HD today
   5. CXR findings: Concerning for fluid overload. BNP points to fluid
   overload. Also covering for pneumonia with antibiotics.
   - Abx as above
   - HD today
   - Repeat CXR post-dialysis to look for volume clearing
   6. Hypothyroidism: Normal dose 200-250mcg PO of levothyroxine.
   - 100mcg IV
   FEN: No IVF, replete electrolytes, NPO until LP then renal diet
   Prophylaxis: Subcutaneous heparin
   Access: Peripherals
   Code:  Full (confirmed)
   Communication: Patient Sister [**Name (NI) **]: c [**Telephone/Fax (1) 9479**]; h [**Telephone/Fax (1) 9480**];
   business cell: [**Telephone/Fax (1) 9481**]
   Disposition: Call-out to floor this morning.

2159-11-21 10:09:00 Physician Attending Progress Note
Chief Complaint: delirium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   42 yo women with ESRD from DM, on HD.  Presented with delirium,
   agititation, hyperglycemia.  Has had two days of weakness and lethargy,
   of note, she was recently notified that she was temporarily removed
   from the kidney transplant list.   Overnight patient more calm on
   haldol and ativan.  CT head was negative.  LP unattempted, but unable
   to get.   This morning is much improved.
   24 Hour Events:
                            History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-11-20**] 04:41 PM
   Acyclovir - [**2159-11-20**] 07:50 PM
   Ampicillin - [**2159-11-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2159-11-20**] 03:12 PM
   Lorazepam (Ativan) - [**2159-11-20**] 10:30 PM
   Hydralazine - [**2159-11-20**] 10:40 PM
   Metoprolol - [**2159-11-21**] 02:00 AM
   Other medications:
   dep s/q
   doxazosin
   asa
   nephrocaps
   acyclovir
   CTX
   vanco
   ampicillin
   lopressor
   SSI
   synthroid
   lisinopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Dialysis
   Integumentary (skin): No(t) Rash
   Endocrine: Hyperglycemia
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Allergy / Immunology: No(t) Immunocompromised
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2159-11-21**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 67 (64 - 91) bpm
   BP: 165/64(86) {146/60(81) - 226/90(122)} mmHg
   RR: 13 (13 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,447 mL
                                                                    198 mL
   PO:
             TF:
   IVF:
                                                                    447 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                     70 mL
                                                                     45 mL
   Urine:
                                                                     70 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,377 mL
                                                                    153 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.8 g/dL
   259 K/uL
   128 mg/dL
   10.1 mg/dL
   26 mEq/L
   4.2 mEq/L
   68 mg/dL
   93 mEq/L
   133 mEq/L
   31.8 %
   11.3 K/uL
        [image002.jpg]
                            [**2159-11-20**]  01:30 PM
                            [**2159-11-20**]  09:44 PM
                            [**2159-11-21**]  04:00 AM
   WBC
   6.3
   11.6
   11.3
   Hct
   35.0
   32.3
   31.8
   Plt
   235
   267
   259
   Cr
   9.0
   9.5
   10.1
   Glucose
   556
   154
   128
   Other labs: PT / PTT / INR:12.0/26.2/1.0, ALT / AST:[**10-13**], Alk Phos / T
   Bili:70/0.2, Differential-Neuts:84.2 %, Lymph:11.4 %, Mono:1.9 %,
   Eos:2.1 %, Lactic Acid:3.1 mmol/L, Albumin:3.4 g/dL, LDH:201 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.6 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS WITHOUT ORGAN DYSFUNCTION:
   Altered MS:   Unable to get LP yesterday.  Will get IR to get LP.  If
   negative, can stop antibiotics.  Other likely scenario is that
   she had some emotional distress from headache and news about her
   transplant status, and then she was medicated with morphine and
   ativan in the ED which made her delirious.  But will r/o meningitis.
   Getting HD today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-11-20**] 02:45 PM
   18 Gauge - [**2159-11-20**] 02:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2159-11-22 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hyperglycemia and altered mental status
   24 Hour Events:
   - D/c'd all ABx except Acyclovir
   - LP by IR --> WBC's low but RBC's high --> Get MRV to r/o central vein
   thrombosis (ordered)
   - CXR after dialysis --> WET read lungs clear, improved pulm vascular
   congestion
   - Difficult to control HTN in the evening --> added back Doxazosin,
   increased Valsartan to 80mg daily, added Hydralazine and Metoprolol.
   Also written for Labetalol and Lisinopril.
   - BS's >600 --> given 16U Humalog at 2200 --> continue to be elevated
   --> started on insulin gtt and stat chem panel
   - Changed IV thyroxine to 250mcg qday and 500mcg qSunday --> that seems
   like a lot and given presentation, added on TSH and fT4 to morning labs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-11-20**] 04:41 PM
   Ceftriaxone - [**2159-11-21**] 04:08 PM
   Ampicillin - [**2159-11-21**] 06:00 PM
   Acyclovir - [**2159-11-21**] 09:00 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2159-11-21**] 04:45 PM
   Insulin - Regular - [**2159-11-22**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-11-22**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 69 (67 - 82) bpm
   BP: 174/81(104) {130/63(82) - 206/96(118)} mmHg
   RR: 18 (10 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.5 kg (admission): 79 kg
             Total In:
                                                                    788 mL
                                                                    282 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    548 mL
                                                                     42 mL
   Blood products:
   Total out:
                                                                     65 mL
                                                                      0 mL
   Urine:
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    723 mL
                                                                    282 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   244 K/uL
   10.3 g/dL
   514 mg/dL
   5.7 mg/dL
   31 mEq/L
   4.0 mEq/L
   28 mg/dL
   91 mEq/L
   133 mEq/L
   32.4 %
   5.8 K/uL
        [image002.jpg]
                            [**2159-11-20**]  01:30 PM
                            [**2159-11-20**]  09:44 PM
                            [**2159-11-21**]  04:00 AM
                            [**2159-11-22**]  12:14 AM
   WBC
   6.3
   11.6
   11.3
   5.8
   Hct
   35.0
   32.3
   31.8
   32.4
   Plt
   235
   267
   259
   244
   Cr
   9.0
   9.5
   10.1
   5.7
   Glucose
   556
   154
   128
   514
   Other labs: PT / PTT / INR:12.0/26.2/1.0, ALT / AST:[**10-13**], Alk Phos / T
   Bili:70/0.2, Differential-Neuts:84.2 %, Lymph:11.4 %, Mono:1.9 %,
   Eos:2.1 %, Lactic Acid:3.1 mmol/L, Albumin:3.4 g/dL, LDH:201 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   [1][**2159-11-21**] 02:36PM
                                    19[1]
                                    4700*
                                     94
                                      4
                                      2
   SOURCE:LP #4
   [2][**2159-11-21**] 02:36PM
                                    47[2]
                                   [**Numeric Identifier 9533**]*
                                     93
                                      5
                                      2
   Source: LP; #1
   CHEMISTRY
                                   TotProt
                                   Glucose
                                   LD(LDH)
   [3][**2159-11-21**] 02:36PM
                                     48*
                                     97
                                     22
   Source: LP; #2
   Imaging: CXR [**2159-11-21**]
   lungs clear. improved pulmonary vascular congestion.
   Microbiology: [**2159-11-21**] 2:36 pm CSF;SPINAL FLUID      Source: LP #3.
      GRAM STAIN (Final [**2159-11-21**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
   A 42 year old lady with ESRD from Type 1 diabetes presents with
   confusion/altered mental status with a recent headache and worsening
   lethargy in the setting of hyperglycemia.  She is responsive to
   sedative medications.
   .
   1. Altered Mental Status: The patient's altered mental status may be
   due to infectious (meningitis/PNA), hyperglycemia/hypertensive
   derrangements, possible ingestion in the light of the recent de-listing
   news, psychiatric reaction to finding out de-listing news, or a
   reaction to prescribed meds such as reglan.  All tox screens are
   negative this far and the patient is not showing objective signs of
   infection (no fever or white count).  She has received haldol and
   ativan for agitation thus far.  LP was unsuccessful yesterday.  Urine
   Tox, Serum Tox were negative. Patient
s mental status today is A&O x3.
   - LP yesterday with +PMN
   - Blood Cx, Urine Cx, Urine Legionella antigen, sputum Cx need to be
   followed up (all NTD)
   - Vanc/CTX/Amp/Acyclovir for meningitis
   - Ativan/haldol PRN
   - Restraints PRN
   .
   2. Hyperglycemia: The patient is having hyperglycemia with alterations
   in mental status but no evidence of ketones.  Her anion gap is
   difficult to interpret given her underlying renal disease.
   - Continue sliding scale
   - No IVF given renal disease
   .
   3. Hypertension: The patient is hypertensive to the 200s, with baseline
   150s.  We were previously unable to administer her home meds because of
   altered mental status.
   - Restarted home antihypertensives (valsartan)
   - HD today
   .
   4. ESRD: The patient was admitted to for dialysis given hyperkalemia. K
   has now normalized.
   - Nephrocaps, hold Renagel (Phos 2.7)
   - HD yesterday
   5. CXR findings: Concerning for fluid overload. BNP points to fluid
   overload. Also covering for pneumonia with antibiotics.
   - Abx as above
   .
   6. Hypothyroidism: Normal dose 200-250mcg PO of levothyroxine.
   - 250mcg IV
   .
   FEN: No IVF, replete electrolytes, NPO until LP then renal diet
   Prophylaxis: Subcutaneous heparin
   Access: Peripherals
   Code:  Full (confirmed)
   Communication: Patient Sister [**Name (NI) **]: c [**Telephone/Fax (1) 9479**]; h [**Telephone/Fax (1) 9480**];
   business cell: [**Telephone/Fax (1) 9481**]
   Disposition: Call-out to floor this morning.
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);

2159-11-22 12:27:00 Physician Attending Progress Note
Chief Complaint: delirium
   HPI:
   42 yo women with delirium and hyperglycemia.  Patient hypertensive and
   hyperglycemia overnight.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2159-11-20**] 04:41 PM
   Ceftriaxone - [**2159-11-21**] 04:08 PM
   Ampicillin - [**2159-11-21**] 06:00 PM
   Acyclovir - [**2159-11-21**] 09:00 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2159-11-21**] 04:45 PM
   Insulin - Regular - [**2159-11-22**] 12:30 AM
   Other medications:
   hep s/q
   colace
   nephrocaps
   acyclovir
   doxazosin
   lopressor
   valsartan
   levoxyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Eyes:  Blurry vision
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Chest pain
   Gastrointestinal: Nausea
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2159-11-22**] 12:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.1
C (97
   HR: 65 (65 - 82) bpm
   BP: 174/86(106) {151/63(82) - 206/96(118)} mmHg
   RR: 16 (10 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.5 kg (admission): 79 kg
             Total In:
                                                                    788 mL
                                                                    494 mL
   PO:
                                                                    240 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    548 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                     65 mL
                                                                    430 mL
   Urine:
                                                                     65 mL
   NG:
   430 mL
   Stool:
   Drains:
   Balance:
                                                                    723 mL
                                                                     64 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   244 K/uL
   514 mg/dL
   5.7 mg/dL
   31 mEq/L
   4.0 mEq/L
   28 mg/dL
   91 mEq/L
   133 mEq/L
   32.4 %
   5.8 K/uL
        [image002.jpg]
                            [**2159-11-20**]  01:30 PM
                            [**2159-11-20**]  09:44 PM
                            [**2159-11-21**]  04:00 AM
                            [**2159-11-22**]  12:14 AM
   WBC
   6.3
   11.6
   11.3
   5.8
   Hct
   35.0
   32.3
   31.8
   32.4
   Plt
   235
   267
   259
   244
   Cr
   9.0
   9.5
   10.1
   5.7
   Glucose
   556
   154
   128
   514
   Other labs: PT / PTT / INR:12.0/26.2/1.0, ALT / AST:[**10-13**], Alk Phos / T
   Bili:70/0.2, Differential-Neuts:84.2 %, Lymph:11.4 %, Mono:1.9 %,
   Eos:2.1 %, Lactic Acid:3.1 mmol/L, Albumin:3.4 g/dL, LDH:201 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Headaches/increased opening pressure on LP:  will need MRV/MRA.
   Nausea/visual hallucinations:  complains of seeing spots - may be due
   to percocet.
   CSF not consistent with meningitis.  Continue acyclovir until HSV PCR
   negative.
   hyperglycemia:  refused her long acting insulin last night
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-11-20**] 02:45 PM
   20 Gauge - [**2159-11-22**] 12:20 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes